US05519034
A solution of 1-(1-naphthyl)cyclopropane carbonyl chloride (7.1 g, prepared as described in Example CL32) in ethyl acetate (50 ml) was added to a stirred mixture of 4-benzyloxy-3-methoxyphenethylamine hydrochloride (9.29 g) in ethyl acetate (150 ml). Triethylamine (25 ml) was added and the mixture stirred for a further 64 hours. The organic layer was washed with dilute hydrochloric acid, dried over sodium sulphate and the solvent removed in vacuo to yield N-[2-(4-benzyloxy-3-methoxyphenyl)-ethyl]-1-(1-naphthyl)cyclopropane carboxamide (14.1 g).

reactant | 1-(1-naphthyl)cyclopropane carbonyl chloride | 7.1 g | C1(=CC=CC2=CC=CC=C12)C1(CC1)C(=O)Cl | C14H11ClO
reactant | 4-benzyloxy-3-methoxyphenethylamine hydrochloride | 9.29 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C(CCN)C=C1)OC
reactant | Triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-[2-(4-benzyloxy-3-methoxyphenyl)-ethyl]-1-(1-naphthyl)cyclopropane carboxamide | 14.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(=O)C1(CC1)C1=CC=CC2=CC=CC=C12)OC | C30H29NO3
